US07902252B2
2.97. Synthesis of 4-(biphenyl-3-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (82)
The title compound was synthesized from methyl 4-(biphenyl-3-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.041 g, 0.124 mmol) and lithium hydroxide (0.055 g, 1.31 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford the title compound: 24.0 mg, 61% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.08-2.20 (m, 1H), 2.50-2.62 (m, 3H), 2.77-2.90 (m, 2H), 3.27-3.30 (m, 1H), 6.39 (s, 1H), 7.17 (d, J=7.57 Hz, 1H), 7.26-7.44 (m, 6H), 7.53-7.58 (m, 2H); LCMS-MS (ESI−) 316.2 (M−H); HPLC (UV=97.3%), (ELSD=100%).

reactant | methyl 4-(biphenyl-3-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.124 mmol, 0.041 g | C1(=CC(=CC=C1)CC1CCC=2NC(=CC21)C(=O)OC)C2=CC=CC=C2 | C22H21NO2
reactant | lithium hydroxide | 1.31 mmol, 1 mL, 0.055 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(biphenyl-3-ylmethyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C1(=CC(=CC=C1)CC1CCC=2NC(=CC21)C(=O)O)C2=CC=CC=C2 | C21H19NO2
